US06048866
The 2-chloro-4-(4-methoxyphenylsulphanyl)pyrimidine was prepared in a similar manner to the analogous starting material of Example 1, from 4-methoxybenzenethiol (1.90 g, 13.4 mmol), 2,4-dichloropyrimidine (2.0 g, 13.4 mmol) and sodium hydride [60% dispersion in oil] (590 mg, 14.8 mmol) as an off-white solid m.p. 69-70°.

reactant | 4-methoxybenzenethiol | 13.4 mmol, 1.90 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | 2,4-dichloropyrimidine | 13.4 mmol, 2.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | sodium hydride | 14.8 mmol, 590 mg | [H-].[Na+]
product | 2-chloro-4-(4-methoxyphenylsulphanyl)pyrimidine | ClC1=NC=CC(=N1)SC1=CC=C(C=C1)OC | C11H9ClN2OS
